US05795900
To a stirred solution in DMF (50 mL) of 2,2-dimethyl-3,3-bis(4-hydroxy-phenyl)propionic acid methyl ester (1.1 g, 3.7 mmol), prepared as in step 1, was added Cs2CO3 (2.5 g, 7.7 mmol) and the mixture stirred 0.5 hours at room temperature. 2-Chloromethyquinoline (1.37g, 7.7 mmol) was added as a solid in small portions. The reaction mixture was stirred overnight at room temperature. The mixture was poured into 300 mnL of water and extracted with ether (2×200 mL). Brine was added to the aqueous layer and it was extracted twice with ether. The combined ether extracts were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to give a light yellow oil. Chromatography on silica gel (40% ethyl acetate/hexanes) gave 1.68 g (78%) of 2,2-dimethyl-3,3-bis(4-(2-quinolyl-methoxy)phenyl)propionic acid methyl ester as a white foam.

reactant | 2,2-dimethyl-3,3-bis(4-hydroxy-phenyl)propionic acid methyl ester | 3.7 mmol, 1.1 g | COC(C(C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)(C)C)=O | C18H20O4
reactant | Cs2CO3 | 7.7 mmol, 2.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-Chloromethyquinoline | 7.7 mmol, 1.37g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2,2-dimethyl-3,3-bis(4-(2-quinolyl-methoxy)phenyl)propionic acid methyl ester | 1.68 g, 78% | COC(C(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)(C)C)=O | C38H34N2O4
